US04335098
A mixture of 11.8 g (0.0589 mole) of lauric acid and 14.8 g (0.0707 mole) of trifluoroacetic anhydride is stirred at room temperature for 1/2 hour. To the mixture 10.0 g (0.060 mole) of ethyl-2-furanylacrylate is added and the mixture is cooled to about -10° C. One ml of 70% perchloric acid is added and the mixture is warmed to room temperature and stirred for 1 hour. The mixture is diluted with 100 ml of ether and treated with saturated aqueous Na2CO3 until basic. The layers are separated and the ether layer washed with saturated aqueous Na2CO3, water, brine and then evaporated to dryness. The residue is distilled 160°-190° C. (0.1 mm Hg) to give ethyl (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoate, mp 50°-51° C.

reactant | lauric acid | 0.0589 mole, 11.8 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | trifluoroacetic anhydride | 0.0707 mole, 14.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl-2-furanylacrylate | 0.060 mole, 10.0 g | C(C)OC(C(=C)C=1OC=CC1)=O | C9H10O3
reactant | perchloric acid | One ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
product | ethyl (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoate | O=C(CCCCCCCCCCC)C1=CC=C(O1)/C=C/C(=O)OCC | C21H32O4
